US04487779
2,4-dimethyl-3-nitrophenol
2,4-dimethyl-3-nitroaniline (105.6 g) is added to a reaction mixture containing 300 ml of H2SO4 and 300 ml of H2O. The reaction mixture is stirred at a temperature of 105°-108° C. for one half hour and then cooled to 0° C. A solution of sodium nitrite (52.6 g) in H2O (124 ml) is added dropwise. After addition is complete the reaction mixture is poured into a 50% aqueous H2SO4 solution (2,000 ml) and refluxed for one and one half hours. The reaction mixture is cooled over the weekend to ambient temperature, and filtered leaving a yellow and black solid which is washed with H2O, dried and boiled with hexanes (8 l). The hexane extract is concentrated and filtered to obtain 65.4 grams of a yellow solid, M.P. 99°-101° C.

reactant | 2,4-dimethyl-3-nitroaniline | 105.6 g | CC1=C(N)C=CC(=C1[N+](=O)[O-])C | C8H10N2O2
reactant | H2SO4 | 300 ml | OS(=O)(=O)O | H2O4S
reactant | sodium nitrite | 52.6 g | N(=O)[O-].[Na+]
reactant | H2SO4 | 2,000 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 124 ml | O | H2O
solvent | H2O | 300 ml | O | H2O
product | 2,4-dimethyl-3-nitrophenol | 65.4 grams | CC1=C(C=CC(=C1[N+](=O)[O-])C)O | C8H9NO3
